US08357679B2
B: (S)-1-(4-(4-(4-(2-(tert-Butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)-piperazine-1-carbonyl)-2-fluorophenyl)-3-(1-hydroxybutan-2-yl)urea
A solution of (4-amino-3-fluorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazin-1-yl)methanone (0.421 mmol, 250 mg) and 4-nitrophenyl carbonochloridate (0.421 mmol, 85 mg) in dichloromethane (1 ml) was stirred at room temperature for 30 minutes. (S)-2-Aminobutan-1-ol (0.839 mmol, 0.079 mL, 74.8 mg) was added, followed by triethylamine (1.263 mmol, 0.176 mL, 128 mg) and the reaction stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (3 ml) and washed with saturated aqueous sodium hydrogen carbonate solution (5 ml). The organic phase was concentrated and the resulting residue was purified by column chromatography (2-5% methanol in dichloromethane) to afford the title compound (215 mg). MS (ESI) m/z 709.2 [M+H]+

reactant | (4-amino-3-fluorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.421 mmol, 250 mg | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](C)(C)C(C)(C)C)F | C27H34F7N3O2Si
reactant | 4-nitrophenyl carbonochloridate | 0.421 mmol, 85 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | (S)-2-Aminobutan-1-ol | 0.839 mmol, 0.079 mL, 74.8 mg | N[C@H](CO)CC | C4H11NO
reactant | triethylamine | 1.263 mmol, 0.176 mL, 128 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (S)-1-(4-(4-(4-(2-(tert-Butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)-piperazine-1-carbonyl)-2-fluorophenyl)-3-(1-hydroxybutan-2-yl)urea | 215 mg | [Si](C)(C)(C(C)(C)C)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=C(C=C2)NC(=O)N[C@H](CO)CC)F)C=C1 | C32H43F7N4O4Si
